US04845239
50 g (0.12 mol) of sodium nonylphenyl 2-hydroxy-3-chloropropyl phosphate was charged into a reactor, to which 1000 ml of ethanol was added, followed by agitation and heating to 80° C. to obtain a uniform mixture. Thereafter, the reaction system was cooled down to 30° C., to which was gradually added 53.0 g (0.12 mol) of a 0.0022 mol/g sodium hydroxide ethanol solution, followed by agitation for 4 hours while keeping the temperature. The HPLC analysis revealed the disappearance of a peak of the starting material with a peak for the resultant new product appearing. The resultant NaCl precipitate was removed by filtration and the ethanol was distilled off under reduced pressure to obtain 45 g (yield: 98%) of sodium nonylphenyl glycidyl phosphate.

reactant | sodium nonylphenyl 2-hydroxy-3-chloropropyl phosphate | 0.12 mol, 50 g | P(=O)(OC1=C(C=CC=C1)CCCCCCCCC)(OCC(CCl)O)[O-].[Na+]
reactant | sodium hydroxide ethanol | C(C)O.[OH-].[Na+]
solvent | ethanol | 1000 ml | C(C)O | C2H6O
product | sodium nonylphenyl glycidyl phosphate | 45 g, yield: 98% | P(=O)(OC1=C(C=CC=C1)CCCCCCCCC)(OCC1CO1)[O-].[Na+] | InChI=1S/C18H29O5P.Na/c1-2-3-4-5-6-7-8-11-16-12-9-10-13-18(16)23-24(19,20)22-15-17-14-21-17;/h9-10,12-13,17H,2-8,11,14-15H2,1H3,(H,19,20);/q;+1/p-1
